US06713485B2
5-(4-(4-Benzyloxy-3-trifluoromethylphenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde
Prepared according to Procedure C using (4-Benzyloxy-3-trifluoromethylphenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-quinazolin-4-yl)-amine (470 mg, 0.88 mmol) solution in THF (5 ml) followed by the addition of 2N HCl (20 ml) at room temperature. The resulting mixture was stirred for 30 minutes. Water was added (15 ml) then filtered. The yellow solid was washed with water and small amount of ether and dried in vacuo (0.39 g, 84% yield). ESI-MS m/z 490 (M+H)+.

reactant | (4-Benzyloxy-3-trifluoromethylphenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-quinazolin-4-yl)-amine | 0.88 mmol, 470 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1OC(=CC1)C1OCCO1)C(F)(F)F | C29H22F3N3O4
reactant | HCl | 2N, 20 ml | Cl | ClH
reactant | Water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-(4-(4-Benzyloxy-3-trifluoromethylphenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde | 84% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)C=O)C(F)(F)F | C27H18F3N3O3
